US08466186B2
(c) N-{2,4-Dichloro-3-[5-chloro-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzimidazol-2-ylamino]-benzyl}-2,2-dimethyl-propionamide
The title compound was prepared from N-(2,4-dichloro-3-isothiocyanato-benzyl)-2,2-dimethyl-propionamide (108 mg, 0.34 mmol), 4-chloro-2-amino-5-(4-trifluoromethyl-piperidin-1-yl)aniline (100 mg, 0.34 mmol), DIC (56 μL) in DMF (2 mL) in analogy to example 5, step (i). Rf(TLC): 0.35 (silica gel, DCM:EtOH 95:5). MS m/z: 576 [M+H]+. HPLC-method G: Rf=1.48 min.

reactant | N-(2,4-dichloro-3-isothiocyanato-benzyl)-2,2-dimethyl-propionamide | 0.34 mmol, 108 mg | ClC1=C(CNC(C(C)(C)C)=O)C=CC(=C1N=C=S)Cl | C13H14Cl2N2OS
reactant | 4-chloro-2-amino-5-(4-trifluoromethyl-piperidin-1-yl)aniline | 0.34 mmol, 100 mg | ClC1=CC(=C(N)C=C1N1CCC(CC1)C(F)(F)F)N | C12H15ClF3N3
reactant | DIC | 56 μL | CC(N=C=NC(C)C)C | C7H14N2
reactant | DCM EtOH | C(Cl)Cl.CCO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-{2,4-Dichloro-3-[5-chloro-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzimidazol-2-ylamino]-benzyl}-2,2-dimethyl-propionamide | ClC1=C(CNC(C(C)(C)C)=O)C=CC(=C1NC1=NC2=C(N1)C=C(C(=C2)Cl)N2CCC(CC2)C(F)(F)F)Cl | C25H27Cl3F3N5O
